US04344860
A mixture of 26 gms of methyl acrylate (0.3 mols) and 36.4 gms of (CH3O)3SiCH2CH2SH was catalyzed by adding 1 ml. of N/2 alcoholic KOH into a 250 ml., round bottomed glass flask, with stirring. An exothermic reaction raised the temperature to 60° C. The mixture was refluxed for 30 minutes and then distilled under vacuum to recover 46 gms of water-white product with a boiling point at 0.7 mm Hg pressure of 115°-125° C. for an 87 percent yield of (CH3O)3Si(CH2)2S(CH2)2COOCH3. d420 =1.115, ND25 =1.4546. One tenth gram mol (26.8 gms) of this product was saponified by refluxing for one hour with 4 grams of NaOH (0.1 mol) in 80 gms of H2O. Methanol and other volatiles were taken off until the temperature, with auxiliary heating, reached 100° C. The residue was diluted to 100 gms with water to give a 1 molal solution of (Na)O1.5 Si(CH2)2S(CH2)2COONa.

reactant | methyl acrylate | 0.3 mols, 26 gms | C(C=C)(=O)OC | C4H6O2
reactant | (CH3O)3SiCH2CH2SH | 36.4 gms | [Si](OC)(OC)(OC)CCS | C5H14O3SSi
reactant | KOH | [OH-].[K+]
solvent | water | 46 gms | O | H2O
product | (CH3O)3Si(CH2)2S(CH2)2COOCH3 | 87 percent yield | [Si](OC)(OC)(OC)CCSCCC(=O)OC | C9H20O5SSi
